US06596751B2
2-Ethoxy-3-[4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid hydrochloride (hydrochloride of exemplification compound number 1-179)
A mixture of methyl 2-ethoxy-3-[4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyl]propionate (0.17 g), concentrated hydrochloric acid (2 ml) and dioxane (2 ml) was heated at reflux for 1.5 hours. The reaction mixture was concentrated and the water of the residue was removed by azeotropic distillation in dioxane and the crystals were isolated by filtration to afford the title compound (0.16 g, mp 143-146° C.).

reactant | methyl 2-ethoxy-3-[4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyl]propionate | 0.17 g | C(C)OC(C(=O)OC)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC | C22H26N2O5
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-Ethoxy-3-[4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyl]propionic acid hydrochloride | 0.16 g | Cl.C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC | InChI=1S/C21H24N2O5.ClH/c1-4-27-19(21(24)25)11-14-5-7-15(8-6-14)28-13-20-22-17-10-9-16(26-3)12-18(17)23(20)2;/h5-10,12,19H,4,11,13H2,1-3H3,(H,24,25);1H
